US04127720
B. 6,7-Dihydro-9,10-dimethoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carbonitrile
In a manner similar to that described in Example 23B, 6,7-dihydro-9,10-dimethoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxamide was dehydrated to the nitrile in 93% yield, m.p. 261°-262° from acetic acid.

reactant | 6,7-dihydro-9,10-dimethoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxamide | COC=1C=C2CCN3C(C2=CC1OC)=NC=C(C3=O)C(=O)N | C15H15N3O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,7-Dihydro-9,10-dimethoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carbonitrile | 93% yield | COC=1C=C2CCN3C(C2=CC1OC)=NC=C(C3=O)C#N | C15H13N3O3
